US05760032
1-(5-Ethoxycarbonylpentyl)indole-2-carboxylic acid was prepared using benzyl indole-2-carboxylate, DMF, sodium hydride (60% in oil) and ethyl 5-bromohexanoate, and ethyl 6-(2-((4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-yl)methylcarbamoyl)indol-1-yl)hexanoate was synthesized in the same manner as in Example 186 using 3-aminomethyl-4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazole di-p-toluenesulfonate, triethylamine and Bop reagent.

reactant | benzyl indole-2-carboxylate | N1C(=CC2=CC=CC=C12)C(=O)OCC1=CC=CC=C1 | C16H13NO2
reactant | sodium hydride | [H-].[Na+]
reactant | ethyl 5-bromohexanoate | BrC(CCCC(=O)OCC)C | C8H15BrO2
reactant | ethyl 6-(2-((4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-yl)methylcarbamoyl)indol-1-yl)hexanoate | ClC1=C(C(=O)C2=C(SC(=C2)CC)N2C(=NN=C2C)CNC(=O)C=2N(C3=CC=CC=C3C2)CCCCCC(=O)OCC)C=CC=C1 | C34H36ClN5O4S
reactant | 3-aminomethyl-4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazole di-p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)O)C.C1(=CC=C(C=C1)S(=O)(=O)O)C.NCC1=NN=C(N1C=1SC(=CC1C(C1=C(C=CC=C1)Cl)=O)CC)C
reactant | Bop reagent | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-(5-Ethoxycarbonylpentyl)indole-2-carboxylic acid | C(C)OC(=O)CCCCCN1C(=CC2=CC=CC=C12)C(=O)O | C17H21NO4
